US05449812
1.20 g (4.0 mmol) of N-tert-butyl-2-methoxycarbonyl-5-methylaminobenzenesulfonamide is dissolved in 5 ml of anhydrous DMF, and 0.60 g (4.3 mmol) of 95% strength ethoxycarbonyl isothiocyanate is added. After 3 h at room temperature the mixture is taken up in ethyl acetate and washed with 1N hydrochloric acid and water. The organic phase is dried over magnesium sulfate and the solvent is removed by distillation. The residue is taken up in a little ethyl acetate and precipitated with heptane at -25° C. The precipitate is filtered off with suction and dried to give 1.29 g (75% of theory) of colorless N-tert-butyl-5-[N-(ethoxycarbonylaminothiocarbonyl)methylamino]-2-methoxycarbonylbenzenesulfonamide. m.p.: 110° C.

reactant | N-tert-butyl-2-methoxycarbonyl-5-methylaminobenzenesulfonamide | 4.0 mmol, 1.20 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC)C(=O)OC | C13H20N2O4S
reactant | ethoxycarbonyl isothiocyanate | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butyl-5-[N-(ethoxycarbonylaminothiocarbonyl)methylamino]-2-methoxycarbonylbenzenesulfonamide | 1.29 g, 75% | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NCC(=S)NC(=O)OCC)C(=O)OC | C17H25N3O6S2
